US04997950
5.7.3 Preparation of t-Butyloxycarbonyl-L-Tryptophyl-L-Leucyl-β-Alanyl-chloromethane (Boc-Trp-Leu-β-Ala-COCH2Cl) (Peptide XVIII)
Boc-tryptophyl-leucyl-β-alanyl-diazomethane (Section 5.7.1) (0.24 g, 0.47 mmol) was dissolved in ethyl acetate (50 ml). Ether/HCl (40 ml) was added followed by 5% NaHCO3 (60 ml) 1 minute later. The mixture was agitated to neutralise the acid and the aqueous layer was removed. The organic phase was dried over magnesium sulphate and reduced to dryness. The peptide was recrystallised from ethyl acetate/petrol ether (40°/60° C.) and then diethyl ether/petrol ether (40°/60° C.). Yield 0.2 g (82%), m.p. 79°-81° C. The product was homogeneous as judged by tlc in chloroform/methanol (4:1) (Rf 0.770) or chloroform/methanol (1:1) (Rf 0.777). (Found: C, 59.83; H, 7.35; N, 10.81. C26H37O5N4Cl1 requires C, 60.00; H, 7.11; N, 10.77%).

reactant | Boc-tryptophyl-leucyl-β-alanyl-diazomethane | 0.47 mmol, 0.24 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)NCCC(=O)C=[N+]=[N-] | C26H36N6O5
reactant | Ether HCl | 40 ml | CCOCC.Cl
reactant | NaHCO3 | 60 ml | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | t-Butyloxycarbonyl-L-Tryptophyl-L-Leucyl-β-Alanyl-chloromethane | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)NCCC(=O)CCl | C26H37ClN4O5
